* C:\Users\piyus\Projects\public\fm_radio\sims\final\second_order_bessel.asc
* Generated by LTspice 24.1.7 for Windows.
V1 N001 0 AC 1 0 Rser=49.9
C1 N001 N002 12p
L1 N002 N003 226n
C2 N003 0 333p
L2 N003 0 7.9n
RL N003 0 49.9
.ac dec 1001 46.49Meg 204.4Meg
.net I(RL) V1
* 2nd Order Bessel Bandpass\nConventional, Series First\nLower Cutoff Freq. = 87.9 MHz; Upper Cutoff Freq. = 108.1 MHz\n\n\nrf-tools.com | Sep 23 2024 00:26
.backanno
.end
