* C:\Users\piyus\Projects\public\fm_radio\sims\final\Draft1.asc
* Generated by LTspice 24.1.7 for Windows.
L2 0 N003 5µ Rser=0.1
V2 N003 0 0 AC 1 0
L1 N004 N002 40µ Rser=.1
L3 N006 N004 40µ Rser=.1
R1 N001 N005 1.2k
V1 N004 0 3.3
C2 N001 N005 0.7p
L6 N001 N002 0.7n
L7 N006 N005 0.7n
.ac lin 1000 0.1Meg 12Meg
K. L1 L2 L3 1
.backanno
.end
