* C:\Users\piyus\Projects\public\fm_radio\sims\final\Draft5.asc
L1 N002 N003 100p
C1 N002 N005 10p
L2 N005 N006 100p
L3 N004 N001 10p
L4 N007 N004 10p
R1 N004 0 1000
V1 N003 N006 AC 1 0
R2 N002 N005 50
.ac lin 10000 80Meg 120Meg
.backanno
.end
